US07265148B2
A mixture of ethyl 5-amino-1-benzyl-3-phenyl-1H-indole-2-carboxylate (0.93 g, 2.5 mmol), acetonylacetone (2.5 mL, 21.3 mmol), and toluene (25 mL) was heated at reflux under nitrogen using a Dean-Stark trap for 6 h. The reaction was cooled and concentrated. The residue was then purified by flash silica gel chromatography (hexanes/ethyl acetate 4/1) to afford 1.0 g (89%) of ethyl 1-benzyl-5-(2,5-dimethyl-1H-pyrrol-1-yl)-3-phenyl-1H-indole-2-carboxylate as a white solid: 1H NMR (CDCl3) δ 0.99 (t, J=7.1 Hz, 3 H), 2.00 (s, 6 H), 4.15 (q, J=7.1 Hz, 2 H), 5.83 (s, 2 H), 5.86 (s, 2 H), 7.10-7.51 (m, 13 H); MS (ESI) m/z (MH+) 449; Anal. calcd for C30H28N2O2.0.25 H2O: C, 79.53; H, 6.34; N, 6.18. Found: C, 79.67; H, 6.40; N, 5.91.

reactant | ethyl 5-amino-1-benzyl-3-phenyl-1H-indole-2-carboxylate | 2.5 mmol, 0.93 g | NC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C(=O)OCC)C1=CC=CC=C1 | C24H22N2O2
reactant | acetonylacetone | 21.3 mmol, 2.5 mL | C(C(=O)C)CC(C)=O | C6H10O2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-benzyl-5-(2,5-dimethyl-1H-pyrrol-1-yl)-3-phenyl-1H-indole-2-carboxylate | 1.0 g, 89% | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)N1C(=CC=C1C)C)C1=CC=CC=C1)C(=O)OCC | C30H28N2O2
